US06184242B2
To a solution of 2-chloro-3-cyclopentyloxythiophene (2.15 9,10.6 mmol) in ether (27 mL) was added n-butyllithium (2.5 N in hexanes, 4.4 mL, 11 mmol) dropwise at −78° C. under argon. The mixture was allowed to reach 20-25° C. and stirred for 4 hours. After cooling back to −78° C., a solution of p-nitrobenzaldehyde (1.56 g, 10.3 mmol) in tetrahydrofuran (27 mL) was added dropwise. The mixture was stirred at −78° C. for 1 hour. Saturated ammonium chloride was added at −78° C. and the mixture was allowed to reach about 10° C. The crude product was extracted with ethyl acetate, washed with water, brine, dried (Na2SO4), and concentrated to dryness to give 4-(5-chloro-4-cyclopentyloxythien-2-yl)-(4-nitrophenyl)methanol (3.6 g), and was directly used in the next step.

reactant | 2-chloro-3-cyclopentyloxythiophene | 10.6 mmol | ClC=1SC=CC1OC1CCCC1 | C9H11ClOS
reactant | n-butyllithium | 11 mmol, 2.5 N, 4.4 mL | C(CCC)[Li]
reactant | p-nitrobenzaldehyde | 10.3 mmol, 1.56 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 27 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
product | 4-(5-chloro-4-cyclopentyloxythien-2-yl)-(4-nitrophenyl)methanol | 3.6 g | ClC1=C(C=C(S1)C1(CC=C(C=C1)CO)[N+](=O)[O-])OC1CCCC1 | C16H18ClNO4S
